US05336780
4.39 g (8.6 mmol) of 5-amino-3-tert.butyl-1-(3-phthalimido-O-tosyl-propanehydroximoyl)pyrazole are reacted with acetanhydride in the same way as in example 1, synthesis step 3. The crude product which is obtained is recrystallised from methanol. 2.8 g (59%) of 5-acetamido-3-tert.butyl-1-(3-phthalimido-O-tosyl-propanehydroximoyl)-pyrazole with a m. pt. of 195°-201° C. are obtained.

reactant | 5-amino-3-tert.butyl-1-(3-phthalimido-O-tosyl-propanehydroximoyl)pyrazole | 8.6 mmol, 4.39 g | NC1=CC(=NN1C(CCN1C(C=2C(C1=O)=CC=CC2)=O)=NOS(=O)(=O)C2=CC=C(C)C=C2)C(C)(C)C | C25H27N5O5S
reactant | acetanhydride | CC(=O)OC(=O)C | C4H6O3
product | 5-acetamido-3-tert.butyl-1-(3-phthalimido-O-tosyl-propanehydroximoyl)-pyrazole | 2.8 g, 59% | C(C)(=O)NC1=CC(=NN1C(CCN1C(C=2C(C1=O)=CC=CC2)=O)=NOS(=O)(=O)C2=CC=C(C)C=C2)C(C)(C)C | C27H29N5O6S
